US07547710B2
To a solution of methyl {[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}acetate (1.6 g, 3.2 mmol) in tetrahydrofuran (5 ml)-methanol (5 ml) was added 1N aqueous sodium hydroxide solution (10 ml), and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was acidified with 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was crystallized from diisopropyl ether to give {[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}acetic acid (1.3 g, yield 85%) as pale-yellow crystals.

reactant | methyl {[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}acetate | 3.2 mmol, 1.6 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC(=O)OC)CC(C)C | C29H36N2O5
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | {[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}acetic acid | 1.3 g, yield 85% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC(=O)O)CC(C)C | C28H34N2O5
